US07414049B2
c) N-[1-(2-Benzyloxy-ethyl)-2-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-hydroxy-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide (diast. racemate)
In an analogous manner to that described in Example 1e), the condensation of 3-amino-1-(2-benzyloxy-ethyl)-5-(2,2,2-trifluoro-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride and (RS)-2-hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid with 1-hydroxy-benzotriazole and N-(3-dimethylaminpropyl)-N′-ethyl-carbodiimide hydrochloride as the condensating agents yielded a mixture of the four epimeric title compounds as a white foam; MS (m/e): 641 (M+H)+.

reactant | 3-amino-1-(2-benzyloxy-ethyl)-5-(2,2,2-trifluoro-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride | Cl.NC1CN(C2=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C2)CC(F)(F)F
reactant | (RS)-2-hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | OC(C(=O)O)(C(=O)NCC(C(F)(F)F)(F)F)C | C7H8F5NO4
reactant | 1-hydroxy-benzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
product | N-[1-(2-Benzyloxy-ethyl)-2-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-hydroxy-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | C(C1=CC=CC=C1)OCCN1C2=C(N(CC(C1=O)NC(C(C(=O)NCC(C(F)(F)F)(F)F)(C)O)=O)CC(F)(F)F)C=CC=C2 | C27H28F8N4O5
